US06403601B1
N-[2-(3,4-Difluorophenyl)-4-[4-[2-methylsulfonylphenyl]-1-piperidinyl]butyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide
Using standard reductive amination conditions N-[2-(3,4-difluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide was reacted with 4-[2-methylsulfonylphenyl]piperidine and converted to the citrate salt. MS: m/z 595 (M+H). Analysis for C34H40F2N2O3S.C6H8O7.1.4 H2O: calculated: C, 59.16; H, 6.31; N, 3.45; found: C, 59.04; H, 6.10; N, 4.08.

reactant | N-[2-(3,4-difluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | FC=1C=C(C=CC1F)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CC=O | C22H23F2NO2
reactant | 4-[2-methylsulfonylphenyl]piperidine | CS(=O)(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NO2S
solvent | H2O | O | H2O
product | N-[2-(3,4-Difluorophenyl)-4-[4-[2-methylsulfonylphenyl]-1-piperidinyl]butyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | FC=1C=C(C=CC1F)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)(=O)C | C34H40F2N2O3S
